US04471116
To 150 ml of ethanol containing methylamine (16 g) was added 1-benzyloxy-4-(3-bromopropyloxy)benzene (14 g). The solution was heated for 12 hours at 100° under nitrogen at 1000 psi. The solvent was evaporated in vacuo and the residue treated with 20% sodium hydroxide to ~pH10. The oil was extracted with ethyl acetate and converted in its hydrochloride salt in the usual manner to give 8.4 g (70%) of 1-benzyloxy-4-(3-methylaminopropoxy)benzene as its hydrochloride salt, mp 202°-204.

reactant | methylamine | 16 g | CN | CH5N
reactant | 1-benzyloxy-4-(3-bromopropyloxy)benzene | 14 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCCBr | C16H17BrO2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-benzyloxy-4-(3-methylaminopropoxy)benzene | 8.4 g, 70% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCCNC | C17H21NO2
